US05552554
Preparation of 2-Ethoxy-1-methyl-2-oxo-1-(4-phenoxy-phenyl)ethyl 1H-1,2,4-triazole-1-carboxylate
A mixture of 6.9 g of 1,2,4-triazole, 100 mL of toluene, 14.3 g of ethyl 2-(4phenoxyphenyl)lactate, and 20 g of triethylamine was heated to 103° C. to dissolve the triazole and then cooled to -60° C. Phosgene (6.4 g) was added at 57°-60° C. over 2.5 h. After holding the reaction mixture at 59°-60° C. for 1.25 h, the reaction mixture was cooled to -5° C. Ice (100 g) was added, and the temperature dropped to -8° C. The aqueous layer was separated and extracted one time with 15 mL of toluene. The organic layers were combined and washed with cold water (2 times with 25 mL), dried (MgSO4), filtered, and evaporated in vacuo to yield 19.6 g of the title compound as a viscous oil. 1H NMR (300 MHz, CDCl3): δ8.85 (s, 1H), 8.08 (s,1H), 7.59-7.00 (m, 11H), 4.25 (m,2H), 2.18 (s,3H), 1.23 (t,3H).

reactant | 1,2,4-triazole | 6.9 g | N1N=CN=C1 | C2H3N3
reactant | ethyl 2-(4phenoxyphenyl)lactate | 14.3 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)(O)C | C17H18O4
reactant | triazole | N1N=NC=C1 | C2H3N3
reactant | Phosgene | 6.4 g | C(=O)(Cl)Cl | CCl2O
solvent | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Ethoxy-1-methyl-2-oxo-1-(4-phenoxy-phenyl)ethyl 1H-1,2,4-triazole-1-carboxylate | 19.6 g | N1(N=CN=C1)C(=O)OC(C(=O)OCC)(C1=CC=C(C=C1)OC1=CC=CC=C1)C | C20H19N3O5
